US04348322
A stirred suspension of 2-[4-(4-chlorophenyl)phenyl]-5,5-dimethyl-1,3-dioxolan-4-one (100.0 g.), 5% w/w palladium on carbon (10 g.) in a mixture of ethanol (500 ml.) and water (1000 ml.) was cooled to 10° to 15° C. and treated with carbon dioxide gas. The temperature and gas flow were maintained during the addition of a solution of sodium borohydride (63.0 g.) in water (250 ml.) during 1 hour. After 5 hours at 15° to 20° C. the pH of the reaction mixture was adjusted to pH 12 with 47% w/w sodium hydroxide solution and diluted with ethanol (1000 ml.). The residue was separated by filtration and washed successively with ethanol (2×250 ml.) and water (2×250 ml.). The combined filtrate and washings were evaporated to about half volume and the pH adjusted to 3 with 34% w/w hydrochloric acid. The solid which formed was recrystallised twice from toluene to give 2-[4-(4-chlorophenyl)benzyloxy]-2-methylpropionic acid, (m.p. 154°-155° C.) in 42% yield.

reactant | 2-[4-(4-chlorophenyl)phenyl]-5,5-dimethyl-1,3-dioxolan-4-one | 100.0 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1OC(C(O1)=O)(C)C | C17H15ClO3
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium borohydride | 63.0 g | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | palladium on carbon | 10 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 1000 ml | O | H2O
solvent | water | 250 ml | O | H2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 2-[4-(4-chlorophenyl)benzyloxy]-2-methylpropionic acid | 42% yield | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C)C)C=C1 | C17H17ClO3
